.SUBCKT  MAX4144    501  201  99  50   3021  3999  3041
VFAKE2 340 1200  0V
RFAKE 1000 0 1E9
VSHORT44 1000 40 0V
*vshort44 1000 3021 0v
ISUPP 99 0 5.25MA
ISUPPN 50 0 -5.25MA
RF1001 301 1200 100
RG1000 301 1 200
RF1002 1 1000 100
*** INPUT STAGE
I401 99  505 430U
I502  504 50 430U
Q501  50  503 505 QPN
Q502  99  503 504 QNN 
R501   505 506 633
R502  504  507 633
R503 99  508 633
V501  99 510 .3
RE501 510 530 130
D501  530  508 DX
R504 50  509 633
V502  511 50 .3
RE502 511 531 150
D502  509 531 DX
Q503   508  506 502 QNI
Q504   509  507 502 QPI
R506  501 99 20meg
R507  501 50 20meg
IB501 501 99 9UA
IB502 99  502 9UA
VOS500 503 501 0V
*
****************RGM300 302 520 380
RGM300 302 520 380
VGM300 502 520 0V
*** VGM300 SENSES THE CURRENT THROUGH VGM
*** INPUT STAGE
I301 99  305 430U
I302  304 50 430U
Q301  50  303 305 QPN
Q302  99  303 304 QNN 
R301   305 306 633
R302  304  307 633
R303 99  308 633
V301  99 310 .3
RE301 310 330 130
D301  330  308 DX
R304 50  309 633
V302  311 50 .3
RE302 311 331 150
D302   309 331 DX
Q303   308  306 302 QNI
Q304   309  307 302 QPI
R306  301 99 20meg
R307 301 50 20meg
IB301 301 99 9UA
IB302 99  302 9UA
VOS300 303 301 0V
**************SECOND STAGE**************
********************Isup  99 50 4.47M
R308  99 349 1meg
R309  349 50 1meg
V303  99 316 1.755
*pos swig
D303  315 316 DX
D304  317 315 DX
V304  317 50 1.755
*neg swing
EH300  99 398 99 349 1
F301 398 315 VGM300 .35
R305  398 315 2.372MEG
*** ***********************  1st pole here with r5, and c3
C301 398 315 .49P 
*was .157
**************OUTPUT STAGE**************
*
E301  99 340 99 315 1
*** ***********************************************
*** ***********************************************
********** SECOND AMPLIFER AT THE BOTTOM, IN- SIDE.
*** INPUT STAGE
I101 99  205 430U
I202  204 50 430U
Q201  50  203 205 QPN
Q202  99  203 204 QNN 
R201   205 206 633
R202  204  207 633
R203 99  208 633
V201  99 210 .3
RE201 210 230 130
D201  230  208 DX
R204 50  209 633
V202  211 50 .3
RE202 211 231 150
D202  209 231 DX
Q203   208  206 202 QNI
Q204   209  207 202 QPI
R206  201 99 20meg
R207  201 50 20meg
IB201 201 99 10UA
IB202 99  202 10UA
VOS200 203 201 0V
*
RGM 2 220 380
VGM 202 220 0V
*** VGM SENSES THE CURRENT THROUGH VGM
*** INPUT STAGE
I1 99  5 430U
I2  4 50 430U
Q1  50  3 5 QPN
Q2  99  3 4 QNN 
R1   5 6 633
*C1   6 99 .3P
*was .63
R2  4  7 633
*C2   7 50 .3P
*was .63
R3 99  8 633
V1  99 10 .3
RE1 10 30 130
D1  30  8 DX
R4 50  9 633
V2  11 50 .3
RE2 11 31 150
D2   9 31 DX
Q3   8  6 2 QNI
Q4   9  7 2 QPI
R6  1 99 20meg
R7  1 50 20meg
IB1 1 99 2UA
IB2 99  2 2UA
VOS 3 1 0V
**************SECOND STAGE**************
*
********************Isup  99 50 4.47M
R8  99 49 1meg
R9  49 50 1meg
V3  99 16 1.755
*pos swig
D3  15 16 DX
D4  17 15 DX
V4  17 50 1.755
*neg swing
EH  99 98 99 49 1
F1 98 15 VGM .35
R5  98 15 2.372MEG
*** ***********************  1st pole here with r5, and c3
C3 98 15 .49P 
*was .157p
**************OUTPUT STAGE**************
*
E1  99 40 99 15 1
************** Third amplifier**********
***
rin3 3000 3001 10k
ggain 3020 98 3000 3001 1e-2
rggain 3020 98 1e8
************************************************
GGAIN2 3100 98 98 3020 1E-6
RGAIN2 98 3100 1E6

egain 98 3090 98 3100 1
rout 3090 3021 50
DO1 3021 3091 Dx
***************************
vo1 3091 99  -2.6
vo2 3092 3021 -2.6
DO2 50 3092  Dx
***          
R3000 1000 3000 700
R3001 3000 3999 700 
*** 3000 IS PLUS INPUT, REF SIDE  3001 IS NEG. INPUT.
R3002 1200 3001 700
R3003 3001 3041 700
*** out 3021      sense 3020       ref 3041
***
***************MODELS USED**************
*
.MODEL QNI NPN(IS=1E-14 BF=11111 VAF=15 KF=6.7E-14)
.MODEL QPI PNP(IS=1E-14 BF=11111 VAF=15 KF=6.7E-14)
.MODEL QNN NPN(IS=1E-14 BF=11111 VAF=15 KF=4.13E-13)
.MODEL QPN PNP(IS=1E-14 BF=11111 VAF=15 KF=4.13E-13)
.MODEL DX  D(IS=1E-15)
.MODEL DY  D(IS=1E-17)
.MODEL DP D(N=0.001 rs=30)
.MODEL DN  D(KF=1.667E-9 AF=1 XTI=0 EG=.3)
*
.ENDS MAX4144
